* File: AOAI211.pex.netlist.pex
* Created: Mon Dec  5 17:37:15 2022
* Program "Calibre xRC"
* Version "v2013.2_18.13"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_AOAI211_GND! 1 6 14 22
r41 12 17 0.027612
r42 12 14 2.14802
r43 9 22 30
r44 6 9 0.486729
r45 6 22 10
r46 4 17 0.0177079
r47 4 6 3.8948
r48 1 17 30
.ends

.subckt PM_AOAI211_noxref_20 3 9 10 13 19 21
r22 16 21 30
r23 13 16 0.4877
r24 13 21 10
r25 11 13 0.989974
r26 9 11 0.0479787
r27 9 10 3.00975
r28 6 19 30
r29 3 6 0.4877
r30 3 19 10
r31 1 10 0.0479787
r32 1 3 0.989974
.ends

.subckt PM_AOAI211_OUT 2 5 11 15 21 22 24 27 29 31
c64 15 0 1.54119e-20
r65 24 27 1.7
r66 21 27 0.094019
r67 19 31 30
r68 15 19 0.486729
r69 15 31 10
r70 13 19 0.880192
r71 12 22 0.00807693
r72 11 13 0.0479787
r73 11 12 1.88768
r74 8 29 10
r75 5 8 0.874363
r76 5 29 10
r77 3 22 0.0379902
r78 3 5 0.91711
r79 2 22 0.0379902
r80 1 21 0.0617633
r81 1 2 0.0903509
.ends

.subckt PM_AOAI211_VDD! 1 6 15 18 32 33
r51 22 33 10
r52 18 22 0.874363
r53 18 33 10
r54 16 29 0.0185669
r55 16 22 2.43947
r56 13 27 0.0279855
r57 13 15 2.64478
r58 12 29 0.0279855
r59 12 15 0.383031
r60 10 32 10
r61 6 10 0.874363
r62 6 32 10
r63 4 27 0.0185669
r64 4 10 2.43947
r65 1 27 15
.ends

.subckt PM_AOAI211_NET17 3 9 10 13 19 21
r31 16 21 10
r32 13 16 0.874363
r33 13 21 10
r34 11 13 0.73738
r35 9 11 0.0479787
r36 9 10 2.91137
r37 6 19 10
r38 3 6 0.875335
r39 3 19 10
r40 1 10 0.0479787
r41 1 3 0.73738
.ends

.subckt PM_AOAI211_D 4 6 9 10 12 14 17 19
c31 19 0 1.41173e-20
r32 17 22 25
r33 17 19 1.7
r34 9 22 3.26877
r35 9 10 0.841078
r36 6 14 90.5109
r37 5 10 5.20507
r38 5 6 47.6993
r39 4 10 5.20507
r40 3 12 45.2555
r41 3 4 43.0832
.ends

.subckt PM_AOAI211_C 4 6 10 12 14 17 22
c40 14 0 3.15597e-20
r41 19 22 5.82693
r42 17 22 25
r43 14 17 1.7
r44 6 12 90.5109
r45 5 19 3.14239
r46 5 6 46.7037
r47 4 19 3.14239
r48 3 10 45.2555
r49 3 4 44.0788
.ends

.subckt PM_AOAI211_A 4 6 9 10 12 14 16 23
r35 22 23 25
r36 16 23 1.7
r37 9 22 4.51232
r38 9 10 0.841078
r39 6 14 90.5109
r40 5 10 5.20507
r41 5 6 47.8803
r42 4 10 5.20507
r43 3 12 45.2555
r44 3 4 42.9022
.ends

.subckt PM_AOAI211_B 4 6 9 10 12 14 16 23
c30 23 0 1.54119e-20
c31 16 0 1.74424e-20
r32 22 23 25
r33 16 23 1.7
r34 9 22 4.19255
r35 9 10 0.841078
r36 6 14 90.5109
r37 5 10 5.20507
r38 5 6 47.6088
r39 4 10 5.20507
r40 3 12 45.2555
r41 3 4 43.1737
.ends

