* File: AOI21.pex.netlist.pex
* Created: Sun Dec  4 23:25:06 2022
* Program "Calibre xRC"
* Version "v2013.2_18.13"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_AOI21_GND! 1 6 15 18 33 34
r33 21 34 30
r34 18 21 0.4877
r35 18 34 10
r36 16 29 0.0177079
r37 16 18 3.88606
r38 13 27 0.027612
r39 13 15 2.14802
r40 12 29 0.027612
r41 12 15 0.798585
r42 9 33 30
r43 6 9 0.486729
r44 6 33 10
r45 4 27 0.0177079
r46 4 6 3.88703
r47 1 27 15
.ends

.subckt PM_AOI21_OUT 3 9 10 13 20 21 22 27 29 31
c49 27 0 1.3182e-19
c50 13 0 1.3703e-19
r51 25 27 1.7
r52 21 25 0.124203
r53 21 22 0.00675271
r54 19 22 0.0608631
r55 19 20 0.150585
r56 17 31 30
r57 13 17 0.486729
r58 13 31 10
r59 11 22 0.0608631
r60 11 17 0.603311
r61 9 20 0.0479787
r62 9 10 1.44679
r63 6 29 10
r64 3 6 0.874363
r65 3 29 10
r66 1 10 0.0479787
r67 1 3 0.86562
.ends

.subckt PM_AOI21_NET13 3 9 10 13 19 20
c21 13 0 1.3182e-19
r22 17 20 10
r23 13 17 0.875335
r24 13 20 10
r25 11 17 1.76913
r26 9 11 0.0479787
r27 9 10 1.84685
r28 7 19 10
r29 3 7 0.874363
r30 3 19 10
r31 1 10 0.0479787
r32 1 7 1.7701
.ends

.subckt PM_AOI21_VDD! 1 2 4 7 20
r37 11 20 10
r38 7 11 0.874363
r39 7 20 10
r40 5 16 0.0185669
r41 5 11 2.43947
r42 2 16 0.0279855
r43 2 4 0.272771
r44 1 16 30
.ends

.subckt PM_AOI21_B 4 6 9 10 12 14 16 19
r30 19 22 25
r31 16 19 1.7
r32 9 22 3.19771
r33 9 10 0.841078
r34 6 14 90.5109
r35 5 10 5.20507
r36 5 6 47.2467
r37 4 10 5.20507
r38 3 12 45.2555
r39 3 4 43.5358
.ends

.subckt PM_AOI21_A 4 6 9 10 12 14 17 19
c39 17 0 1.3703e-19
r40 17 22 25
r41 17 19 1.7
r42 9 22 5.68481
r43 9 10 0.841078
r44 6 14 90.5109
r45 5 10 5.20507
r46 5 6 46.5226
r47 4 10 5.20507
r48 3 12 45.2555
r49 3 4 44.2599
.ends

.subckt PM_AOI21_C 4 6 9 10 12 14 16 23
r28 22 23 25
r29 16 23 1.7
r30 9 22 4.47679
r31 9 10 0.841078
r32 6 14 90.5109
r33 5 10 5.20507
r34 5 6 46.6131
r35 4 10 5.20507
r36 3 12 45.2555
r37 3 4 44.1693
.ends

