* File: INV.pex.netlist.pex
* Created: Sun Dec  4 23:45:55 2022
* Program "Calibre xRC"
* Version "v2013.2_18.13"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_INV_GND! 1 6 14 22
r20 12 17 0.026668
r21 12 14 0.719893
r22 9 22 30
r23 6 9 0.441068
r24 6 22 10
r25 4 17 0.018745
r26 4 6 3.88217
r27 1 17 30
.ends

.subckt PM_INV_OUT 3 11 18 21 23 24
r29 21 25 0.0835302
r30 18 21 1.7
r31 14 23 10
r32 11 14 1.00066
r33 11 23 10
r34 9 25 0.0486191
r35 9 11 1.07255
r36 7 24 30
r37 3 7 0.441068
r38 3 24 10
r39 1 25 0.0486191
r40 1 7 0.613026
.ends

.subckt PM_INV_VDD! 1 6 14 21
r19 12 17 0.0277737
r20 12 14 0.732184
r21 10 21 10
r22 6 10 1.01426
r23 6 21 10
r24 4 17 0.01879
r25 4 10 2.32775
r26 1 17 30
.ends

.subckt PM_INV_IN 6 10 12 14 17 20 22
r36 20 23 6.67483
r37 20 22 7.57743
r38 17 20 25
r39 14 17 1.7
r40 6 12 90.4204
r41 6 23 43.4453
r42 3 10 45.2555
r43 3 22 39.1912
.ends

