* File: MUX1.pex.netlist.pex
* Created: Mon Dec  5 20:30:42 2022
* Program "Calibre xRC"
* Version "v2013.2_18.13"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_MUX1_GND! 1 6 16 25 28 38 57 58 59 60
c67 16 0 5.24533e-20
r68 41 60 30
r69 38 41 0.4877
r70 38 60 10
r71 36 52 0.0177079
r72 36 38 3.8812
r73 35 50 0.027612
r74 34 52 0.027612
r75 34 35 1.76719
r76 31 59 30
r77 28 31 0.4877
r78 28 59 10
r79 26 50 0.0177079
r80 26 28 3.8812
r81 23 48 0.027612
r82 23 25 2.14802
r83 22 50 0.027612
r84 22 25 1.52722
r85 19 58 30
r86 16 19 0.486729
r87 16 58 10
r88 14 48 0.0177079
r89 14 16 3.88217
r90 13 46 0.027612
r91 12 48 0.027612
r92 12 13 1.27268
r93 9 57 30
r94 6 9 0.4877
r95 6 57 10
r96 4 46 0.0177079
r97 4 6 3.8812
r98 1 52 30
r99 1 48 10
.ends

.subckt PM_MUX1_OUT 1 10 17 19 22 24 25
r30 19 22 1.7
r31 16 22 0.0655872
r32 16 17 0.0202578
r33 13 24 10
r34 10 13 0.874363
r35 10 24 10
r36 8 17 0.0912667
r37 8 10 1.05992
r38 6 25 30
r39 3 6 0.478516
r40 3 25 10
r41 1 17 0.0912667
r42 1 6 0.495674
.ends

.subckt PM_MUX1_NET018 4 6 7 9 11 13 27 29 31
r43 26 27 25
r44 23 26 1.7497
r45 23 29 10
r46 20 23 0.875335
r47 20 29 10
r48 17 20 1.89154
r49 17 31 30
r50 13 17 0.486729
r51 13 31 10
r52 7 27 61.8784
r53 6 7 5.66471
r54 5 11 90.5109
r55 5 6 103.635
r56 4 11 90.5109
r57 3 9 45.2555
r58 3 4 106.712
.ends

.subckt PM_MUX1_NET13 2 4 7 8 12 14 16 18 19 22 26 34 40 41 42
r58 37 41 10
r59 34 37 0.874363
r60 34 41 10
r61 32 40 0.0363272
r62 32 34 0.831617
r63 30 42 30
r64 26 30 0.4877
r65 26 42 10
r66 24 40 0.0363272
r67 24 30 0.973458
r68 21 22 25
r69 19 40 0.00944082
r70 19 21 2.46862
r71 13 22 37.9106
r72 13 14 0.841078
r73 11 18 45.2555
r74 11 12 32.5839
r75 7 12 3.89615
r76 7 8 61.9521
r77 4 16 90.5109
r78 3 14 5.20507
r79 3 4 15.5679
r80 2 14 5.20507
r81 1 8 3.89615
r82 1 2 30.7737
.ends

.subckt PM_MUX1_VDD! 1 6 12 16 22 25 28 38 56 57 58 59
c75 16 0 5.24533e-20
r76 42 59 10
r77 38 42 0.874363
r78 38 59 10
r79 36 52 0.0185669
r80 36 42 2.43947
r81 35 50 0.0279855
r82 34 52 0.0279855
r83 34 35 1.62074
r84 32 58 10
r85 28 32 0.874363
r86 28 58 10
r87 26 50 0.0185669
r88 26 32 2.43947
r89 23 48 0.0279855
r90 23 25 2.56503
r91 22 50 0.0279855
r92 22 25 1.22393
r93 20 57 10
r94 16 20 0.874363
r95 16 57 10
r96 14 48 0.0185669
r97 14 20 2.43947
r98 13 46 0.0279855
r99 12 48 0.0279855
r100 12 13 1.33913
r101 10 56 10
r102 6 10 0.874363
r103 6 56 10
r104 4 46 0.0185669
r105 4 10 2.43947
r106 1 52 30
r107 1 48 10
.ends

.subckt PM_MUX1_B 4 6 9 10 12 14 16 19
r29 19 22 25
r30 16 19 1.7
r31 9 22 3.6
r32 9 10 1.21586
r33 6 14 90.5109
r34 5 10 6.18832
r35 5 6 45.2555
r36 4 10 6.18832
r37 3 12 45.2555
r38 3 4 40.2774
.ends

.subckt PM_MUX1_S 2 5 6 10 11 12 14 16 18 20 22 24 26 28 30 32 38 39
r53 38 39 25
r54 32 39 1.7
r55 21 38 5.14212
r56 21 22 1.21064
r57 19 30 90.5109
r58 19 20 87.3431
r59 18 30 90.5109
r60 17 22 6.17309
r61 17 18 46.5226
r62 16 22 6.17309
r63 15 28 45.2555
r64 15 16 39.1007
r65 14 28 45.2555
r66 13 14 179.031
r67 11 20 3.89615
r68 11 12 124.287
r69 10 12 3.89615
r70 9 26 90.5109
r71 9 10 87.3431
r72 5 13 3.89615
r73 5 6 191.362
r74 2 24 45.2555
r75 1 6 3.89615
r76 1 2 179.031
.ends

.subckt PM_MUX1_A 4 6 9 10 12 14 16 23
r27 22 23 25
r28 16 23 1.7
r29 9 22 4.33467
r30 9 10 0.841078
r31 6 14 90.5109
r32 5 10 5.20507
r33 5 6 46.5226
r34 4 10 5.20507
r35 3 12 45.2555
r36 3 4 44.2599
.ends

