* File: NANDDD.pex.netlist.pex
* Created: Sun Dec  4 22:26:43 2022
* Program "Calibre xRC"
* Version "v2013.2_18.13"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_NANDDD_OUT 3 9 10 12 15 22 24 27 29 31
r47 24 27 1.7
r48 21 27 0.148884
r49 21 22 0.00675271
r50 18 29 10
r51 15 18 0.869506
r52 15 29 10
r53 13 22 0.0608631
r54 13 15 0.994831
r55 12 22 0.0608631
r56 11 12 0.219562
r57 9 11 0.0479787
r58 9 10 0.593596
r59 7 31 30
r60 3 7 0.486729
r61 3 31 10
r62 1 10 0.0479787
r63 1 7 0.279796
.ends

.subckt PM_NANDDD_GND! 1 6 14 21
r23 12 16 0.027612
r24 12 14 0.164661
r25 9 21 30
r26 6 9 0.486729
r27 6 21 10
r28 4 16 0.0177079
r29 4 6 3.88412
r30 1 16 30
.ends

.subckt PM_NANDDD_VDD! 1 6 19 27 32 33
r25 25 29 0.0279855
r26 25 27 0.142346
r27 23 33 10
r28 19 23 0.870477
r29 19 33 10
r30 17 29 0.0185669
r31 17 23 2.5784
r32 13 28 0.0279855
r33 13 15 0.676458
r34 12 29 0.0279855
r35 12 15 1.19537
r36 10 32 10
r37 6 10 0.869506
r38 6 32 10
r39 4 28 0.0185669
r40 4 10 2.57937
r41 1 15 10
.ends

.subckt PM_NANDDD_A 4 6 9 10 12 14 16 19
r32 19 22 25
r33 16 19 1.7
r34 9 22 3.26877
r35 9 10 0.841078
r36 6 14 90.5109
r37 5 10 5.20507
r38 5 6 46.3416
r39 4 10 5.20507
r40 3 12 45.2555
r41 3 4 44.3504
.ends

.subckt PM_NANDDD_B 4 6 10 12 14 22 23
r27 22 23 25
r28 19 22 5.82693
r29 14 23 1.7
r30 6 12 90.5109
r31 5 19 3.14239
r32 5 6 46.3416
r33 4 19 3.14239
r34 3 10 45.2555
r35 3 4 44.3504
.ends

